Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
vaginal bulge
 
Major Surgical or Invasive Procedure:
Sacrospinous ligament suspension, anterior and posterior 
colporrhaphy, transvaginal tension free tape, and cystoscopy

 
History of Present Illness:
The patient has noted a bulge coming out of the vagina since 
___. At that time, she was fitted with a pessary, but found it 
uncomfortable. She stopped using the pessary and has had 
progression of the prolapse. It is now protruding outside the 
vagina most of the time. She finds it bothersome when she is 
walking. 
.
She has no urinary incontinence with coughing, sneezing, 
laughing, or urgency. Daytime frequency is every 1.5 hours. She 
has nocturia x1. She has no difficulty starting or maintaining 
the urine stream. She has no recent history of UTI.
.
She does not have constipation or fecal incontinence.
 
Past Medical History:
OB HISTORY: Gravida 5, para 5, vaginal birth 5. 
.
PAST MEDICAL HISTORY: 
ILLNESSES: 
1. Obstructive sleep apnea. 
2. Ureteral calculus. 
3. Hypertension. 
.
SURGICAL HISTORY: 
1. Cholecystectomy. 
2. Inguinal hernia repair. 
.
ALLERGIES: Lisinopril. 

 
Social History:
___
Family History:
No incontinence or prolapse.
 
Physical Exam:
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
Ext: no TTP
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing sacrospinous ligament suspension, 
anterior/posterior colporrhaphy, TVT and cysto for pelvic organ 
prolapse. Please see the operative report for full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV toradol, IV morphine, 
and PO acetaminophen.
.
On post-operative day 1, her urine output was adequate so her 
foley was removed with a voiding trial and she voided 
spontaneously. Her diet was advanced without difficulty and she 
was transitioned to oral acetaminophen, ibuprofen, and 
oxycodone.
.
By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
Furosemide 20 mg, nifedipine 60 mg, atenolol 50 mg, trazodone 50 
mg, aspirin 81 mg. 
 
Discharge Medications:
1. Acetaminophen 650 mg PO TID 
Do not exceed 4 grams in 24 hours. 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every eight (8) hours Disp #*50 Tablet Refills:*1
2. Atenolol 50 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*1
4. Furosemide 20 mg PO DAILY 
5. Ibuprofen 400 mg PO Q8H:PRN pain 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*50 Tablet Refills:*1
6. Multivitamins 1 TAB PO DAILY 
7. NIFEdipine CR 60 mg PO DAILY 
8. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*15 Tablet Refills:*0
9. TraZODone 25 mg PO HS:PRN insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic organ prolapse, incontinence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.

Incision care: There is a glue called Dermabond holding your 
small incisions closed. You may shower and allow soapy water to 
run over incision.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___